### PR TITLE
feat(Analysis): van der Corput's lemma

### PR DESCRIPTION
**Pull request by roos-j**
Adds van der Corput's lemma on one-dimensional oscillatory integrals, a standard tool in harmonic analysis.

Co-authored-by: Manasa Praveen <Manasa_Praveen@student.uml.edu>

---
From https://github.com/roos-j/lean-oscillatory, see there for future plans

Zulip discussion [#mathlib4 > Oscillatory integrals in Lean](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Oscillatory.20integrals.20in.20Lean/with/584786060)

AI disclosure: The code in this PR was human-written. At some point there were attempts to shorten proofs using AI, but those have since been largely overwritten. Currently there is no significant AI-contributed code.

(Edited 6/18/26)

### CODE REVIEW

**Comment by j-loreaux** [comment]
Apologies, I closed this on accident because I confused the PR numbers. This is only my list to review at some point soon. I should have gotten to it today, but it got lost in the shuffle.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 1]
```diff
@@ -0,0 +1,559 @@
...
+
+namespace Oscillatory
+
+open Set Complex NNReal Function
+open intervalIntegral Interval
+
+namespace VanDerCorput
+
+/-- The constant appearing in van der Corput's lemma. -/
+abbrev c (k : ℕ) : ℝ := 5 * 2 ^ (k - 1) - 2
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Since this is such a generic name, I think it should be `protected` so that you have to use the namespace.

Of course, an alternative is to provide a more descriptive name, but I don't have one to suggest.
```suggestion
protected abbrev c (k : ℕ) : ℝ := 5 * 2 ^ (k - 1) - 2
```
Also, the value of `c 0` is a junk value, right? Please indicate so in the docstring. I agree with you that the correct place to do it is in the definition of `c` as opposed to say, defining `c k := 5 * 2 ^ k - 2` and then using `c (k - 1)` in the lemma, but such decisions deserve mention somewhere, possibly in an `Implementation Notes` section of the module documentation.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 2]
```diff
@@ -0,0 +1,559 @@
...
+  | succ k hk =>
+    norm_num
+    have h : (2 ^ k : ℝ) ≥ 1 := by exact_mod_cast Nat.one_le_pow k 2 (by norm_num)
+    have := mul_le_mul_of_nonneg_left h (by norm_num : 0 ≤ (5 : ℝ))
+    exact lt_of_lt_of_le (by norm_num : (2 : ℝ) < 5 * 1) this
+
+theorem c_rec {k : ℕ} (hk : 1 ≤ k) : 2 * c k + 2 = c (k + 1) := by
+  simp only [c, add_tsub_cancel_right]
+  conv_rhs => rw [show k = (k - 1) + 1 by omega, pow_succ]
+  ring
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:78]: A few things to note here:

1. The `c_pos` lemma follows immediately from strong induction and the recursion formula, so it makes sense to put the recursion formula first.
2. It's better to use `k ≠ 0` as a hypothesis instead of `1 ≤ k` (for `k : ℕ`) because the former is more easily provable.
3. Note how I used strong induction and the `positivity` tactic to prove `c_pos`.


```suggestion
theorem c_rec {k : ℕ} (hk : k ≠ 0) : c (k + 1) = 2 * c k + 2 := by
  simp only [c, add_tsub_cancel_right]
  conv_lhs => rw [show k = (k - 1) + 1 by lia]
  ring

theorem c_pos : ∀ k : ℕ, 0 < c k
| 0 => by norm_num
| 1 => by norm_num
| k + 2 => by rw [c_rec (by lia)]; positivity [c_pos (k + 1)]
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 3]
```diff
@@ -0,0 +1,559 @@
...
+variable {a b : ℝ} {L : ℝ}
+variable {φ : ℝ → ℝ}
+variable {k : ℕ}
+
+/-- Auxiliary: If `f` is continuous on `[a, b]` and `|f x| ≥ 1` for all `x ∈ [a, b]`, then either
+`f x ≥ 1` for all `x ∈ [a, b]` or `f x ≤ -1` for all `x ∈ [a, b]`. -/
+private theorem forall_le_or_forall_le_of_forall_le_abs {a b : ℝ}
+    {f : ℝ → ℝ} (hfcont : ContinuousOn f [[a, b]])
+    (hf : ∀ x ∈ [[a, b]], 1 ≤ |f x|) :
+    (∀ x ∈ [[a, b]], 1 ≤ f x) ∨ (∀ x ∈ [[a, b]], f x ≤ -1) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Suitably generalized, I think this lemma need not be `private` (but in that case it should go in a different file).

In particular, the domain can be arbitrary, and all that is needed is that the set on which `f` is continuous is preconnected. The codomain can (I think) be a linearly ordered ring with an order-closed topology, and of course there is nothing special about `1`.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 4]
```diff
@@ -0,0 +1,559 @@
...
+      (fun x hx h ↦ zero_lt_one.not_ge <| by simpa [h] using hf x hx) with hp | hn
+  · left; intro x hx
+    simpa [abs_of_nonneg (show 0 ≤ f x from (hp hx).le)] using hf x hx
+  · right; intro x hx
+    simpa [le_neg, abs_of_nonpos (show f x ≤ 0 from (hn hx).le)] using hf x hx
+
+/-- Auxiliary lemma used in the higher-order proof -/
+private theorem exists_le_abs_of_le_derivWithin
+    (hφ : ContDiffOn ℝ 1 φ [[a, b]]) (h : ∀ x ∈ [[a, b]], 1 ≤ derivWithin φ [[a, b]] x) :
+    ∃ c ∈ [[a, b]], ∀ x ∈ [[a, b]], |x - c| ≤ |φ x| := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I think the proof of this theorem could be simplified a lot by noting that `fun x ↦ |φ x|`, because it is continuous on the compact set `[[a, b]]`, takes a minimum at some `c ∈ [[a, b]]`. This is the `c` you want. Then you prove that for `x ∈ [[a, b]]`, if `x < c`, then `|φ x| = -(φ x)` and if `c < x`, then `|φ x| = φ x` (This latter bit could even use the slightly generalized version of the previous result).

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 5]
```diff
@@ -0,0 +1,559 @@
...
+        ((hφ.differentiableOn (by norm_num)).sub differentiableOn_id |>.mono interior_subset)
+      intro x hx
+      have hx' := interior_subset hx
+      have hda : DifferentiableAt ℝ φ x :=
+        ((hφ.differentiableOn (by norm_num)) x hx').differentiableAt
+          (Filter.mem_of_superset (isOpen_interior.mem_nhds hx) interior_subset)
+      change 0 ≤ deriv (φ - id) x
+      rw [deriv_sub hda differentiableAt_id, deriv_id', ← hda.derivWithin (hud x hx')]
+      linarith only [h x hx']
+    intro x hx y hy hxy; linarith only [hg hx hy hxy]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Note that supplying some facts can help `fun_prop` out a bit, and thereby simplify the amount of work you need to do by hand. Note also the `deriv_fun_sub` version of the lemma, instead of `deriv_sub`, which can be useful when rewriting. That's why we have both (likewise `deriv_id''`, which should arguably be called `deriv_fun_id` or `deriv_fun_self`)
```suggestion
  have hφ' := hφ.continuousOn
  have hφ'' := hφ.differentiableOn one_ne_zero
  have hud : UniqueDiffOn ℝ [[a, b]] := uniqueDiffOn_Icc (min_lt_max.mpr hab)
  have hmvt : ∀ x ∈ [[a, b]], ∀ y ∈ [[a, b]], x ≤ y → y - x ≤ φ y - φ x := by
    suffices hg : MonotoneOn (fun x ↦ φ x - x) [[a, b]] by
      intro x hx y hy hxy; linarith only [hg hx hy hxy]
    have := hφ''.mono interior_subset
    refine monotoneOn_of_deriv_nonneg (convex_uIcc ..) (by fun_prop) (by fun_prop) fun x hx ↦ ?_
    have hdx := this.differentiableAt <| isOpen_interior.mem_nhds hx
    have hx' := interior_subset hx
    rw [deriv_fun_sub hdx (by fun_prop), deriv_id'', ← hdx.derivWithin (hud x hx')]
    linarith only [h x hx']
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 6]
```diff
@@ -0,0 +1,559 @@
...
+
+/-- **Van der Corput's lemma**. Special case of `norm_integral_exp_mul_I_le_of_order_one`
+  where the amplitude function is constant and scalar. -/
+theorem norm_integral_exp_mul_I_le_of_order_one'
+    (hφ : ContDiffOn ℝ 2 φ [[a, b]]) (h : ∀ x ∈ [[a, b]], 1 ≤ |derivWithin φ [[a, b]] x|)
+    (hφ'_mono : MonotoneOn (derivWithin φ [[a, b]]) [[a, b]])
+    (hL : L ≠ 0) :
+    ‖∫ x in a..b, exp (L * φ x * I)‖ ≤ c 1 * |L|⁻¹ := by
+  wlog! hab : a ≠ b
+  · simp only [hab, integral_same, norm_zero]; positivity
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:164]: optionally, you could do a `wlog! hab' a < b` after this. That would allow you to turn your `[[a, b]]` into `Icc a b`. I'm not sure which is better, I'm only mentioning it as an option.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 7]
```diff
@@ -0,0 +1,559 @@
...
+
+section SpecialCase
+
+/-- **Van der Corput's lemma**. Special case of `norm_integral_exp_mul_I_le_of_order_one`
+  where the amplitude function is constant and scalar. -/
+theorem norm_integral_exp_mul_I_le_of_order_one'
+    (hφ : ContDiffOn ℝ 2 φ [[a, b]]) (h : ∀ x ∈ [[a, b]], 1 ≤ |derivWithin φ [[a, b]] x|)
+    (hφ'_mono : MonotoneOn (derivWithin φ [[a, b]]) [[a, b]])
+    (hL : L ≠ 0) :
+    ‖∫ x in a..b, exp (L * φ x * I)‖ ≤ c 1 * |L|⁻¹ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Is there a particular advantage in your mind to proving this for `1 ≤ |derivWithin φ [[a, b]] x|` and `exp (L * φ x * I)` as opposed to `|L| ≤ |derivWithin φ [[a, b]] x|` and `exp (φ x * I)`?

I would expect with the previous lemma or two generalized appropriately, that my suggestion would result in less work because the expressions involved are simpler, but maybe I'm missing something.

However, there is I think a more important reason to adopt the approach I suggest, which is that the conclusion will unify (i.e., match) against more targets.

**Review by j-loreaux — COMMENTED** [review]
There are a few more things to say:

1. the module documentation should include some explanation of why the vector-valued version is proven from the scalar-valued version, and not vice versa. I'm sure it is something to do with the proof technique, but not being an expert in this area it is not obvious to me without some serious thought.
2. I wonder whether it would be beneficial to phrase the integrand in terms of `Circle.exp`. There is probably some missing API for that in terms of derivatives, but it's possible it would make it easier in the end (after adding the necessary API) because you don't have to track as many `I`s around the expressions.
3. all the proofs of the main results in this file are super long. They can almost certainly be factored out into other lemmas. However, whenever a proof is long (a good rule of thumb is say, more than 20 lines), it should include comments in the code outlining the argument for the reader.

I'm happy to have another look after (3) is done. Feel free to discuss if you think my suggestions are bad for some reason.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 3 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I actually had a generalized version at some point and then reverted it, because I wasn't sure if Mathlib needs this in the general version and where to put it. But if you think it's worthwhile I can do that.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 4 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I'm not sure whether this would simplify it. This is mathematically equivalent to the proof that is currently written, at least that was the intention (we currently equivalently use the intermediate value theorem to obtain $c$, then $\phi(c)=0$ and we proceed as you explain). The advantage of your approach might be that this definition of $c$ also works if it is one of the endpoints. But either way this is written, I think we do have to treat the two edge cases that $c$ is one of the endpoints, so in the end I'm not so optimistic that it is short enough to be worth the added effort.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 6 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:164]: Thanks, this is actually done elsewhere in the file for a different case. I think it doesn't make much of a difference, so would keep it the way it is.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 7 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I suppose the current version is the more customary one in the literature, but I can see the merits of your proposed version, will change.

**Comment by roos-j** [comment]
> 1. the module documentation should include some explanation of why the vector-valued version is proven from the scalar-valued version, and not vice versa. I'm sure it is something to do with the proof technique, but not being an expert in this area it is not obvious to me without some serious thought.

Yes, this comes from the proof. Btw. the point is less the distinction between scalar- and vector-valued here, but rather that the amplitude in the scalar version is constant. This reduction is a common trick. Added a comment and also changed wording from scalar to constant amplitude.

> 2. I wonder whether it would be beneficial to phrase the integrand in terms of `Circle.exp`. There is probably some missing API for that in terms of derivatives, but it's possible it would make it easier in the end (after adding the necessary API) because you don't have to track as many `I`s around the expressions.

I looked into `Circle.exp`. I think it is not the right notion to use here, mainly because `Circle` of course doesn't have an addition structure, so we always have to coerce into the complex numbers. Oscillatory integrals are fundamentally about adding up oscillations, so I think `Complex.exp` is more natural.

> 3. all the proofs of the main results in this file are super long. They can almost certainly be factored out into other lemmas. However, whenever a proof is long (a good rule of thumb is say, more than 20 lines), it should include comments in the code outlining the argument for the reader.
> 
> I'm happy to have another look after (3) is done. Feel free to discuss if you think my suggestions are bad for some reason.

There was already some effort to split into as many propositions as reasonable. Unfortunately the proofs don't naturally split into smaller parts than this. These are quite short on paper but become long in Lean because we have to tediously check many mathematically trivial side conditions. Of course we could always split further by introducing more internal definitions of the various helper functions and proving their properties as lemmas  (this specific $f$ is differentiable, $f$ is integrable, $f$ satisfies this specific inequality, ...). I don't know what is the better approach. This is a common problem for "hard analysis" proofs. My feeling is that one should not declare too many constants that are not interesting on their own or likely to be used elsewhere, but I may be wrong. The hope is that the problem of tedious side conditions will eventually resolve by itself as automation improves.

For now I have not split it into additional lemmas, but instead added comments in the proof.

(Edited after changes)

**Comment by roos-j** [comment]
Many thanks @j-loreaux!  I've implemented the changes I wanted to make after your suggestions. 
Moving `L` out of the exponent is definitely the more natural formulation, this will make the theorems easier to use and proofs simplified a little bit in a few places. Line count still increased a little bit due to added comments.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 8]
```diff
@@ -0,0 +1,564 @@
...
+private theorem forall_le_or_forall_le_of_forall_le_abs {a b : ℝ}
+    {L : ℝ} (hL : 0 < L) {f : ℝ → ℝ} (hfcont : ContinuousOn f [[a, b]])
+    (hf : ∀ x ∈ [[a, b]], L ≤ |f x|) :
+    (∀ x ∈ [[a, b]], L ≤ f x) ∨ (∀ x ∈ [[a, b]], L ≤ -f x) := by
+  rcases isPreconnected_uIcc.mapsTo_Ioi_or_Iio (b := (0 : ℝ)) hfcont
+      (fun x hx h ↦ not_le_of_gt hL <| by simpa [h] using hf x hx) with hp | hn
+  · left; intro x hx
+    simpa [abs_of_nonneg (show 0 ≤ f x from (hp hx).le)] using hf x hx
+  · right; intro x hx
+    simpa [le_neg, abs_of_nonpos (show f x ≤ 0 from (hn hx).le)] using hf x hx
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: And, yes, I would still be tempted to write a generic version of this lemma for Mathlib. It's not super common, but it's annoying to need to prove, so better to have it in the library.
```suggestion
  obtain (h | h) := isPreconnected_uIcc.mapsTo_Ioi_or_Iio (b := (0 : ℝ)) hfcont
    (fun x hx h ↦ not_le_of_gt hL <| by simpa [h] using hf x hx)
  all_goals grind [MapsTo]
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 9]
```diff
@@ -0,0 +1,564 @@
...
+
+/-- Auxiliary lemma used in the higher-order proof -/
+private theorem exists_le_abs_of_le_derivWithin
+    {L : ℝ} (hL : 0 < L) (hφ : ContDiffOn ℝ 1 φ [[a, b]])
+    (h : ∀ x ∈ [[a, b]], L ≤ derivWithin φ [[a, b]] x) :
+    ∃ c ∈ [[a, b]], ∀ x ∈ [[a, b]], L * |x - c| ≤ |φ x| := by
+  by_cases hab : a = b
+  · exact ⟨a, left_mem_uIcc, fun x hx ↦ by
+      subst hab; rw [uIcc_self] at hx; simp [mem_singleton_iff.mp hx]⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: You can use the `rfl` pattern to avoid the `subst`, and `simp_all` will do the last bits for you.
```suggestion
  obtain (rfl | hab) := eq_or_ne a b
  · exact ⟨a, left_mem_uIcc, by simp_all⟩
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 10]
```diff
@@ -0,0 +1,564 @@
...
+  wlog hL1 : L = 1 generalizing φ L
+  · obtain ⟨c, hc, hc'⟩ := this (L := 1) (φ := L⁻¹ • φ) (by norm_num) (hφ.const_smul L⁻¹)
+      (fun x hx ↦ by
+        have : 1 ≤ L⁻¹ * derivWithin φ [[a, b]] x := by field_simp [hL.ne']; linarith [h x hx]
+        simpa [smul_eq_mul, derivWithin_const_smul_field] using this) rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Putting the last argument to `this` on it's own line makes it easier for me to read.
```suggestion
        simpa [smul_eq_mul, derivWithin_const_smul_field] using this)
      rfl
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 11]
```diff
@@ -0,0 +1,564 @@
...
+    refine ⟨c, hc, fun x hx ↦ ?_⟩
+    calc
+      L * |x - c| ≤ L * |(L⁻¹ • φ) x| := mul_le_mul_of_nonneg_left (by simpa using hc' x hx) hL.le
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: You can use `gcongr` here instead of specifying the lemma name
```suggestion
      L * |x - c| ≤ L * |(L⁻¹ • φ) x| := by gcongr L * ?_; simpa using hc' x hx
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 12]
```diff
@@ -0,0 +1,564 @@
...
+      have hc' : c ∈ [[a, b]] := uIcc_subset_uIcc hmin_mem hmax_mem hc
+      refine ⟨c, hc', fun x hx ↦ ?_⟩
+      rw [(show |φ x| = |φ x - φ c| by rw [hfc, sub_zero])]
+      rcases le_or_gt c x with hle | hlt
+      · rw [abs_of_nonneg (sub_nonneg.mpr hle), abs_of_nonneg
+          (by linarith only [hmvt _ hc' _ hx hle, hle])]
+        linarith only [hmvt _ hc' _ hx hle]
+      · rw [abs_of_neg (sub_neg.mpr hlt), abs_of_nonpos
+          (by linarith only [hmvt _ hx _ hc' hlt.le, hlt])]
+        linarith only [hmvt _ hx _ hc' hlt.le]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Here's another approach which tries to make use of a lot of automation, as well as factoring out a lemma. I claim that the top-level `obtain` here should be its own lemma, called `ContinuousOn.trichotomy` or something, but of course not specialized to `0`, and likely not specialized to `uIcc` either, just taking a pre-connected set.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 13]
```diff
@@ -0,0 +1,564 @@
...
+
+/-- **Van der Corput's lemma**. Special case of `norm_integral_exp_mul_I_le_of_order_one`
+  where the amplitude function is constant and scalar. -/
+theorem norm_integral_exp_mul_I_le_of_order_one'
+    (hφ : ContDiffOn ℝ 2 φ [[a, b]]) (h : ∀ x ∈ [[a, b]], L ≤ |derivWithin φ [[a, b]] x|)
+    (hφ'_mono : MonotoneOn (derivWithin φ [[a, b]]) [[a, b]]) (hL : 0 < L) :
+    ‖∫ x in a..b, exp (φ x * I)‖ ≤ c 1 * L⁻¹ := by
+  wlog! hab : a ≠ b
+  · simp only [hab, integral_same, norm_zero]; positivity
+  have hud_ab : UniqueDiffOn ℝ [[a, b]] := uniqueDiffOn_Icc <| min_lt_max.mpr hab
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: we should have a `uniqueDiffOn_uIcc` lemma

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 14]
```diff
@@ -0,0 +1,564 @@
...
+    intro x hx
+    convert HasDerivWithinAt.div (hasDerivWithinAt_const _ _ (1 : ℂ))
+      (.mul (.ofReal_comp <| hasDerivAt_φ' _ hx)
+        (hasDerivWithinAt_const _ _ I)) (hnz1 hx) using 1
+    · rfl
+    · funext; simp [u]
+    · have hφ0 : (φ' x : ℂ) ≠ 0 := by exact_mod_cast hφ'_nz hx
+      simp [u']
+      field_simp
+      simp [I_sq]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
    · rfl
    · simp [mul_pow, u']
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 15]
```diff
@@ -0,0 +1,564 @@
...
+    rcases h' with h' | h' <;> linarith only [h' x hx, hL]
+  have hnz1 {x : ℝ} (hx : x ∈ [[a, b]]) : φ' x * I ≠ 0 := by simp [hφ'_nz hx]
+  have hnz2 {x : ℝ} (hx : x ∈ [[a, b]]) : ((φ' x) ^ 2 : ℂ) ≠ 0 := by simp [hφ'_nz hx]
+  have hφ'_norm {x : ℝ} (hx : x ∈ [[a, b]]) : L ≤ ‖φ' x‖ := by
+    simpa [φ', Real.norm_eq_abs] using h x hx
+  have hasDerivAt_u : ∀ x ∈ [[a, b]], HasDerivWithinAt u (u' x) [[a, b]] x := by
+    intro x hx
+    convert HasDerivWithinAt.div (hasDerivWithinAt_const _ _ (1 : ℂ))
+      (.mul (.ofReal_comp <| hasDerivAt_φ' _ hx)
+        (hasDerivWithinAt_const _ _ I)) (hnz1 hx) using 1
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: It seems like you are working with `/` here instead of `⁻¹` simply because the lemmas we have in Mathlib are currently stated in the wrong generality. Compare [HasDerivWithinAt.fun_div](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/Deriv/Inv.html#HasDerivWithinAt.fun_div) to [HasDerivWithinAt.fun_inv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/Deriv/Inv.html#HasDerivWithinAt.fun_inv). Can I interest you in updating the latter to better match the former?

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 16]
```diff
@@ -0,0 +1,564 @@
...
+    fun x hx ↦ (hφ.contDiffWithinAt hx).derivWithin (m := 1) hud_ab (by norm_num) hx |>
+      fun h ↦ (h.differentiableWithinAt <| by norm_num).hasDerivWithinAt
+  have hφ''_cont : ContinuousOn φ'' [[a, b]] := by
+    simpa [φ'', iteratedDerivWithin_succ, iteratedDerivWithin_one] using
+      hφ.continuousOn_iteratedDerivWithin (m := 2) (by norm_num) hud_ab
+  -- The rough idea is just to integrate by parts to gain the factor `L⁻¹`.
+  let u := fun x ↦ 1 / (φ' x * I)
+  let v := fun x ↦ exp (φ x * I)
+  let u' := fun x ↦ (φ'' x) * I / (φ' x) ^ 2
+  let v' := fun x ↦ φ' x * I * exp (φ x * I)
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I still think it would make sense to use `Circle.exp` (of course, followed by the coercion to `ℂ`. One could prove several lemmas about it, including differentiation rules. Then the fact that `v'` is the derivative of `v` would be immediate (because you would have factored it out into a lemma). `exp (φ x * I)` comes up often enough that I think doing this is worth it.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 17]
```diff
@@ -0,0 +1,564 @@
...
+    grind only
+  -- The boundary terms are each bounded by `L⁻¹`
+  have h2 {x : ℝ} (hx : x ∈ [[a, b]]) : ‖u x * v x‖ ≤ L⁻¹ := by
+    simp only [u, v, norm_mul, norm_div, norm_one]
+    norm_cast
+    rw [norm_exp_ofReal_mul_I]
+    have := norm_ne_zero_iff.mpr <| hφ'_nz hx
+    field_simp [φ', h x hx]
+    have := hφ'_norm hx
+    rwa [norm_I, mul_one]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
    simpa [u, v, field, hL.trans_le (h x hx), φ'] using h x hx
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 18]
```diff
@@ -0,0 +1,564 @@
...
+  -- We want to estimate the integral on RHS of `h1` **uniformly** in `a, b`.
+  -- The idea is to use FTC and monotonicity. We require some groundwork first.
+  have hasDerivAt_φ'_int : ∀ x ∈ uIoo a b, HasDerivWithinAt (fun x ↦ -1 / φ' x)
+      (φ'' x / (φ' x) ^ 2) (Ioi x) x := by
+    intro x hx
+    have hx' := uIoo_subset_uIcc_self hx
+    have := ((hasDerivAt_φ' x hx').mono uIoo_subset_uIcc_self).hasDerivAt <| isOpen_Ioo.mem_nhds hx
+    convert HasDerivWithinAt.div (hasDerivWithinAt_const _ _ (-1)) this.hasDerivWithinAt ?_ using 1
+    · rfl
+    · rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: It's really not ideal to have goals of the shape of these here. It would be better to make `convert` behave here, or else use something else.

Note, this is another of those `have` statements that should be really trivial if you update `HasDerivWithinAt.inv` and if you make the form of the statement match.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 19]
```diff
@@ -0,0 +1,564 @@
...
+    simp only [Complex.norm_div, Complex.norm_mul, norm_real,
+      Real.norm_eq_abs, norm_I, mul_one, norm_pow, sq_abs, u']
+    rw [abs_of_nonneg <| hφ'_mono.derivWithin_nonneg (x := x)]
+  have hv {x : ℝ} : ‖v x‖ = 1 := by simp [v]
+  -- This is the key estimate, independent of `a, b`.
+  have h3 : ‖∫ x in a..b, u' x * v x‖ ≤ L⁻¹ := by
+    apply le_trans norm_integral_le_abs_integral_norm
+    simp_rw [norm_mul, hv, mul_one]
+    -- Discover integral of a derivative and use FTC.
+    rw [integral_congr hnorm_u'_eq, integral_eq_sub_of_hasDeriv_right ?_ hasDerivAt_φ'_int]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: You can name subgoals like this, and then work on them ahead of time, leaving the hard stuff for later. Then the rest of the proof can be unindented a bit.
```suggestion
    rw [integral_congr hnorm_u'_eq, integral_eq_sub_of_hasDeriv_right ?cont hasDerivAt_φ'_int ?int]
    case int => exact ContinuousOn.intervalIntegrable <| by fun_prop (discharger := grind)
    case cont => fun_prop (discharger := grind)
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 20]
```diff
@@ -0,0 +1,564 @@
...
+    · -- To get the right constant, want `≤ L⁻¹`, not `2 * L⁻¹` here,
+      -- so we can't just use the triangle inequality.
+      have : |-1 / φ' b - -1 / φ' a| = |1 / φ' b - 1 / φ' a| := by
+        rw [neg_div, neg_div, sub_neg_eq_add, add_comm, ← sub_eq_add_neg, abs_sub_comm]
+      rw [this]
+      have hrange : (∀ x ∈ [[a, b]], 1 / φ' x ≤ L⁻¹ ∧ 0 ≤ 1 / φ' x) ∨
+                (∀ x ∈ [[a, b]], 1 / φ' x ≤ 0 ∧ -L⁻¹ ≤ (1 / φ' x)) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Working with `1 / ...` instead of `(...)⁻¹` is unidiomatic Lean code, and you will be constantly fighting `simp`. Note also, instead of `have := ...; rw [this]`, you can use `suffices`.

**Review by j-loreaux — COMMENTED** [review]
Thanks for the comments in the source and the work you've done so far! I think there's still a lot of room for improvement here. I've had a look at various places. I think you want to find ways to simplify your derivative calculations wherever possible, and `convert` doesn't seem to be doing you any favors here.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 9 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Thanks, agreed! Even easier:
```suggestion
  obtain (rfl | hab) := eq_or_ne a b
  · simp
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 21]
```diff
@@ -0,0 +1,561 @@
...
+          constructor
+          · exact one_div_nonpos.mpr (by linarith only [hnegx, hL])
+          · simpa [one_div_neg] using (neg_le_neg <| one_div_le_one_div_of_le hL hnegx)
+      rcases hrange with hrange | hrange <;>
+        have ha := hrange a left_mem_uIcc <;>
+        have hb := hrange b right_mem_uIcc <;>
+        rw [abs_le] <;> constructor <;> linarith only [ha, hb]
+    · apply ContinuousOn.intervalIntegrable
+      fun_prop (discharger := try { exact fun x hx ↦ by have := hφ'_nz hx; positivity })
+    · fun_prop (discharger := exact fun x hx ↦ by have := hφ'_nz hx; positivity)
```
Comment (roos-j) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 11 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Elaboration is probably faster with the explicit version and it doesn't get much shorter with `gcongr`. Is it still the preferred version? This is a broader style question I have: should one always aggressively prefer automation even if there is an obvious explicit lemma? I suppose that makes proofs more robust against future refactors, but at the cost of elaboration time.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 15 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: https://github.com/leanprover-community/mathlib4/pull/40743

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 22]
```diff
@@ -0,0 +1,484 @@
...
+-- Find correct file. `Topology/Connected/Basic.lean` does not import absolute value
+@[to_additive]
+theorem _root_.IsPreconnected.forall_le_or_forall_le_of_forall_le_mabs {s : Set α}
+    (hs : IsPreconnected s) {L : β} (hL : 1 < L) {f: α → β}
+    (hfcont: ContinuousOn f s) (hf : ∀ x ∈ s, L ≤ |f x|ₘ) :
+    (∀ x ∈ s, L ≤ f x) ∨ (∀ x ∈ s, L ≤ (f x)⁻¹) := by
+  obtain (h | h) := hs.mapsTo_Ioi_or_Iio (b := 1) hfcont (fun x hx h ↦
+    not_le_of_gt hL <| by simpa [mabs_one, h] using hf x hx)
+  · grind [MapsTo, mabs_of_one_lt]
+  · grind [MapsTo, mabs_of_lt_one]
```
Comment (roos-j) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: @j-loreaux Following your suggestion I generalized this lemma, but I'm not sure which file it should go into (trying not to add any new imports). `#find_home` also didn't give a clear answer. Maybe `Mathlib.Topology.Order.IntermediateValue`, if so where in that file?

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 23]
```diff
@@ -0,0 +1,484 @@
...
+
+-- #find_home! IsPreconnected.forall_le_or_forall_le_of_forall_le_mabs
+
+end GeneralLemma
+
+/-- Auxiliary lemma used in the higher-order proof -/
+private theorem exists_le_abs_of_le_derivWithin
+    {L : ℝ} (hL : 0 < L) (hφ : ContDiffOn ℝ 1 φ [[a, b]])
+    (h : ∀ x ∈ [[a, b]], L ≤ derivWithin φ [[a, b]] x) :
+    ∃ c ∈ [[a, b]], ∀ x ∈ [[a, b]], L * |x - c| ≤ |φ x| := by
```
Comment (roos-j) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:97]: @j-loreaux I have significantly simplified the proof of this, the main saver was to remove the `wlog L = 1`. I also made some exploratory attempts to implement your suggestions, but this seemed like it would end up being the same length. I find the current argument pretty clear: first show `L * (y - x) ≤ φ y - φ x` and then use that to handle each of the cases. There are three cases depending on whether `c` is at the left endpoint, right endpoint or in the middle and in the last two more depending on whether `x` is left or right of `c`.

**Comment by roos-j** [comment]
@j-loreaux Thanks for the additional helpful comments, which led to many improvements.

A left over point:
> I still think it would make sense to use `Circle.exp` (of course, followed by the coercion to `ℂ`. One could prove several lemmas about it, including differentiation rules. Then the fact that `v'` is the derivative of `v` would be immediate (because you would have factored it out into a lemma). `exp (φ x * I)` comes up often enough that I think doing this is worth it.

I very much agree with the general point on using lemmas for expressions involving `exp (x * I)`. Instead of `Circle.exp` I think it is more appropriate in this context to use something like (not sure about the name, another candidate is `Complex.cis`, in line with Isabelle)
```lean
def Complex.expI : ℝ → ℂ := fun x ↦ exp (x * I)
```
I think Mathlib would benefit from this definition and corresponding API. 
This avoids the unnatural detour into `Circle` and back (to be clear, I'm not complaining about `Circle.exp` in general, just about using it in this situation). 

I experimented implementing this for the current file: [Basic.lean](https://github.com/roos-j/lean-oscillatory/blob/expI/LeanOscillatory/Basic.lean) & [VanDerCorput.lean](https://github.com/roos-j/lean-oscillatory/blob/expI/LeanOscillatory/VanDerCorput.lean)

One lesson was that other than the `v'` fact now being immediate (as you pointed out), the proof does not become shorter. Still in the long run it will probably be worth it, because this fact is very likely to be reused. Every theorem on oscillatory integrals will want to compute derivatives of increasingly complicated expressions involving `expI`, integrate functions built from `expI` etc.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 22 above)
Comment (j-loreaux) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Yes, I agree that the `IntermediateValue` file, while not ideal, currently makes the most sense. I don't have a strong opinion about the location within that file. At the top, maybe in it's own section, is fine.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 24]
```diff
@@ -0,0 +1,484 @@
...
+/-- **Van der Corput's lemma**. Special case of `norm_integral_exp_mul_I_le_of_order_one`
+  where the amplitude function is constant and scalar. -/
+theorem norm_integral_exp_mul_I_le_of_order_one'
+    (hφ : ContDiffOn ℝ 2 φ [[a, b]]) (h : ∀ x ∈ [[a, b]], L ≤ |derivWithin φ [[a, b]] x|)
+    (hφ'_mono : MonotoneOn (derivWithin φ [[a, b]]) [[a, b]]) (hL : 0 < L) :
+    ‖∫ x in a..b, exp (φ x * I)‖ ≤ c 1 * L⁻¹ := by
+  wlog! hab : a ≠ b
+  · simp only [hab, integral_same, norm_zero]; positivity
+  have hud := uniqueDiffOn_uIcc hab
+  have := hφ.continuousOn
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I insert the underscore to make it clear that this fact is only used for automation, we don't refer to it explicitly later.
```suggestion
  /- `φ` is smooth of order `2` on `[[a, b]]`, hence continuous there, and its derivative within
  `[[a, b]]`, denoted by `φ'`, is continuous on `[[a, b]]`. -/
  have _ := hφ.continuousOn
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 25]
```diff
@@ -0,0 +1,484 @@
...
+  let φ' := fun x ↦ derivWithin φ [[a, b]] x
+  have hasDerivAt_φ : ∀ x ∈ [[a, b]], HasDerivWithinAt φ (φ' x) [[a, b]] x := fun x hx ↦
+    ((hφ.contDiffWithinAt hx).differentiableWithinAt (by norm_num)).hasDerivWithinAt
+  have hφ'_cont := hφ.continuousOn_derivWithin hud (by norm_num)
+  have h' := isPreconnected_uIcc.forall_le_or_forall_le_of_forall_le_abs hL hφ'_cont h
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:176]: documentation, and move up a later result.
```suggestion
  /- Since `[[a, b]]` is connected and `L ≤ |φ'|` on `[[a, b]]`, either `φ' ≥ L` or `φ' ≤ -L`
  everywhere on this set, so `L ≤ ‖φ' x‖` for all `x ∈ [[a, b]]`. The second derivative of `φ`,
  denoted `φ''`, is also continuous on `[[a, b]]`. -/
  have h' := isPreconnected_uIcc.forall_le_or_forall_le_of_forall_le_abs hL hφ'_cont h
  have hφ'_norm {x : ℝ} (hx : x ∈ [[a, b]]) : L ≤ ‖φ' x‖ := by simpa using h x hx
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 26]
```diff
@@ -0,0 +1,484 @@
...
+  let φ'' := fun x ↦ derivWithin φ' [[a, b]] x
+  have hasDerivAt_φ' : ∀ x ∈ [[a, b]], HasDerivWithinAt φ' (φ'' x) [[a, b]] x :=
+    fun x hx ↦ (hφ.contDiffWithinAt hx).derivWithin (m := 1) hud (by norm_num) hx |>
+      fun h ↦ (h.differentiableWithinAt <| by norm_num).hasDerivWithinAt
+  have hφ''_cont : ContinuousOn φ'' [[a, b]] := by
+    simpa [φ'', iteratedDerivWithin_succ, iteratedDerivWithin_one] using
+      hφ.continuousOn_iteratedDerivWithin (m := 2) (by norm_num) hud
+  -- The rough idea is just to integrate by parts to gain the factor `L⁻¹`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
  /- The rough idea is just to integrate by parts to gain the factor `L⁻¹`, where we
  express the integrand `exp (φ x * I)` as `u * v'` with `u := (φ' x * I)⁻¹` and
  `v' := φ' x * I * exp (φ x * I)`. -/
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 27]
```diff
@@ -0,0 +1,484 @@
...
+  let u := fun x ↦ (φ' x * I)⁻¹
+  let v := fun x ↦ exp (φ x * I)
+  let u' := fun x ↦ (φ'' x) * I / (φ' x) ^ 2
+  let v' := fun x ↦ φ' x * I * exp (φ x * I)
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:191]:
```suggestion
  let v' := fun x ↦ φ' x * I * exp (φ x * I)
  /- These help automation to succeed later -/
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 28]
```diff
@@ -0,0 +1,484 @@
...
+  have hφ'_nz {x : ℝ} (hx : x ∈ [[a, b]]) : φ' x ≠ 0 := by grind
+  have hnz1 {x : ℝ} (hx : x ∈ [[a, b]]) : φ' x * I ≠ 0 := by simp [hφ'_nz hx]
+  have hnz2 {x : ℝ} (hx : x ∈ [[a, b]]) : ((φ' x) ^ 2 : ℂ) ≠ 0 := by simp [hφ'_nz hx]
+  have hφ'_norm {x : ℝ} (hx : x ∈ [[a, b]]) : L ≤ ‖φ' x‖ := by simpa using h x hx
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: the `hφ'_norm` fact moved up in the proof.
```suggestion
  /- The derivatives of `u` and `v` are `u'` and `v'`, respectively. -/
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 29]
```diff
@@ -0,0 +1,484 @@
...
+    simp [mul_pow, u']
+  have hasDerivAt_v : ∀ x ∈ [[a, b]], HasDerivWithinAt v (v' x) [[a, b]] x := fun x hx ↦ by
+    convert! HasDerivWithinAt.cexp (.mul (.ofReal_comp <| hasDerivAt_φ _ hx)
+      (hasDerivWithinAt_const _ _ I)) using 1
+    simp [v']; ring
+  have h1 : ∫ x in a..b, exp (φ x * I) = u b * v b - u a * v a - ∫ x in a..b, u' x * v x := by
+    suffices h'' : ∀ x ∈ [[a, b]], exp (φ x * I) = u x * v' x by
+      rw [integral_congr h'']
+      refine integral_mul_deriv_eq_deriv_mul_of_hasDerivWithinAt hasDerivAt_u hasDerivAt_v ?_ ?_
+        <;> exact ContinuousOn.intervalIntegrable (by fun_prop (discharger := assumption))
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
        <;> exact ContinuousOn.intervalIntegrable (by fun_prop)
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 30]
```diff
@@ -0,0 +1,484 @@
...
+    grind only
+  -- The boundary terms are each bounded by `L⁻¹`
+  have h2 {x : ℝ} (hx : x ∈ [[a, b]]) : ‖u x * v x‖ ≤ L⁻¹ := by
+    simpa [u, v, field, hL.trans_le (h x hx), φ'] using h x hx
+  -- We want to estimate the integral on RHS of `h1` **uniformly** in `a, b`.
+  -- The idea is to use FTC and monotonicity. We require some groundwork first.
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
  /- We want to estimate the integral `∫ x in a..b, u' x * v x`. We first recognize that
  `‖u' x‖` is the derivative of `fun y ↦ -(φ' y)⁻¹` evaluated at `x`. -/
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 31]
```diff
@@ -0,0 +1,484 @@
...
+  have hasDerivAt_φ'_int : ∀ x ∈ uIoo a b, HasDerivWithinAt (fun x ↦ -(φ' x)⁻¹)
+      (φ'' x / (φ' x) ^ 2) (Ioi x) x := fun x hx ↦ by
+    have hx' := uIoo_subset_uIcc_self hx
+    have := ((hasDerivAt_φ' x hx').mono uIoo_subset_uIcc_self).hasDerivAt <| isOpen_Ioo.mem_nhds hx
+    convert! HasDerivWithinAt.neg <| .inv this.hasDerivWithinAt (hφ'_nz hx') using 1
+    field_simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
    have := hasDerivAt_φ' x hx' |>.mono uIoo_subset_uIcc_self |>.hasDerivAt (isOpen_Ioo.mem_nhds hx)
    simpa [neg_div] using! this.inv (hφ'_nz hx') |>.neg.hasDerivWithinAt
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 32]
```diff
@@ -0,0 +1,484 @@
...
+      have hrange : (∀ x ∈ [[a, b]], (φ' x)⁻¹ ≤ L⁻¹ ∧ 0 ≤ (φ' x)⁻¹) ∨
+                (∀ x ∈ [[a, b]], (φ' x)⁻¹ ≤ 0 ∧ -L⁻¹ ≤ (φ' x)⁻¹) := by
+        rcases h' with hpos | hneg
+        · refine Or.inl <| fun x hx ↦ ?_
+          have : 0 < φ' x := by linarith only [hL, hpos x hx]
+          exact ⟨by field_simp; exact hpos x hx, by field_simp; simp⟩
+        · refine Or.inr <| fun x hx ↦ ⟨?_, ?_⟩
+          · exact inv_nonpos.mpr (by linarith only [hneg x hx, hL])
+          · simpa using (neg_le_neg <| one_div_le_one_div_of_le hL <| hneg x hx)
+      rcases hrange with h | h <;> grind [h a left_mem_uIcc, h b right_mem_uIcc]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I've rewritten this as a `calc` block to aid readability and added some documentation.
```suggestion
  /- This is the key estimate, independent of `a, b`. We realize the integrand as the derivative of
  `fun x ↦ (φ' x)⁻¹` and apply the fundamental theorem of calculus. Since `|φ'| ≥ L > 0` and `φ'`
  is continuous (therefore always positive or always negative), `|(φ' b)⁻¹ - (φ' a)⁻¹| ≤ L⁻¹`. -/
  have h3 : ‖∫ x in a..b, u' x * v x‖ ≤ L⁻¹ := calc
    ‖∫ x in a..b, u' x * v x‖ ≤ |∫ x in a..b, ‖u' x * v x‖| := norm_integral_le_abs_integral_norm
    _ = |∫ x in a..b, φ'' x / (φ' x) ^ 2| := by simp [v, integral_congr hnorm_u'_eq]
    _ = |(φ' b)⁻¹ - (φ' a)⁻¹| := by
      rw [integral_eq_sub_of_hasDeriv_right ?cont hasDerivAt_φ'_int ?int]
      case int => exact ContinuousOn.intervalIntegrable <| by fun_prop (discharger := grind)
      case cont => fun_prop (discharger := grind)
      grind
    _ ≤ L⁻¹ := by
      -- To get the right constant, want `≤ L⁻¹`, not `2 * L⁻¹` here,
      -- so we can't just use the triangle inequality.
      suffices hrange : (∀ x ∈ [[a, b]], (φ' x)⁻¹ ≤ L⁻¹ ∧ 0 ≤ (φ' x)⁻¹) ∨
          (∀ x ∈ [[a, b]], (φ' x)⁻¹ ≤ 0 ∧ -L⁻¹ ≤ (φ' x)⁻¹) by
        rcases hrange with h | h <;> grind [h a left_mem_uIcc, h b right_mem_uIcc]
      refine h'.imp ?_ ?_ <;> refine forall₂_imp fun x hx hφL ↦ ?_
      · have : 0 < φ' x := by linarith only [hL, hφL]
        field_simp
        simpa using hφL
      · have : (φ' x)⁻¹ < 0 := by rw [inv_neg'']; linarith only [hL, hφL]
        exact ⟨this.le, by rwa [neg_le, neg_inv, inv_le_inv₀ (by simpa) ‹_›]⟩
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 33]
```diff
@@ -0,0 +1,484 @@
...
+      rw [integral_symm, norm_neg]
+  revert hk hL
+  -- The idea is induction on the order `k`.
+  -- If `k = 2` we use the order one theorem and show the monotonicity condition.
+  induction k generalizing a b L φ with
+  | zero => intro hk; contradiction
+  | succ k ih =>
+  intro hk hL
+  have hφc' := hφc.continuousOn_iteratedDerivWithin (m := k + 1) (by rfl)
+    (uniqueDiffOn_uIcc hab.ne)
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
  have hφc' := hφc.continuousOn_iteratedDerivWithin (m := k + 1) (by rfl) (uniqueDiffOn_uIcc hab.ne)
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 34]
```diff
@@ -0,0 +1,484 @@
...
+  wlog hφ' : ∀ x ∈ [[a, b]], L ≤ iteratedDerivWithin (k + 1) φ [[a, b]] x generalizing φ L
+  · rcases isPreconnected_uIcc.forall_le_or_forall_le_of_forall_le_abs hL hφc' hφ with _ | hφ'
+    · contradiction
+    convert! this (φ := -φ) hφc.neg (by simpa) hL ?_
+        (fun x hx ↦ by rw [iteratedDerivWithin_neg]; linarith only [hφ' x hx]) using 1
+    · simp_rw [Pi.neg_apply, ofReal_neg, neg_mul, ← conj_exp_ofReal_mul_I,
+        intervalIntegral_conj, norm_conj]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
    · simp [← conj_exp_ofReal_mul_I, intervalIntegral_conj]
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 35]
```diff
@@ -0,0 +1,484 @@
...
+      ((hC1.differentiableOn (by norm_num)).mono interior_subset) fun x hx ↦ ?_
+    have hx' := interior_subset hx
+    have hda := ((hC1.differentiableOn (by norm_num)) x hx').differentiableAt
+      (Filter.mem_of_superset (isOpen_interior.mem_nhds hx) interior_subset)
+    rw [← hda.derivWithin (hud x hx'), ← iteratedDerivWithin_succ]
+    exact le_trans hL.le <| hφ' x hx'
+  -- This is the main estimate for the outer two pieces, unified to avoid duplication.
+  have haux {α β : ℝ} (hαβ : [[α, β]] ⊆ [[a, b]])
+      (hest : α ≠ β → ∀ x ∈ [[α, β]], L * δ ≤ |iteratedDerivWithin k φ [[a, b]] x|) :
+      ‖∫ x in α..β, exp (φ x * I)‖ ≤ c k * (L * δ) ^ (-(1 : ℝ) / k) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:309]: I would extract this out into a `private` lemma. You can probably use `extract_goal` to help here.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 36]
```diff
@@ -0,0 +1,484 @@
...
+  have hc₁_mem : c₁ ∈ [[a, b]] :=
+    ⟨le_trans (min_le_left a b) (le_max_left a (d - δ)),
+     max_le (le_max_left a b) (le_trans (sub_le_self d hδ_pos.le) hd.2)⟩
+  have hc₂_mem : c₂ ∈ [[a, b]] :=
+    ⟨le_min (min_le_right a b) (le_trans hd.1 (le_add_of_nonneg_right hδ_pos.le)),
+     le_trans (min_le_left b (d + δ)) (le_max_right a b)⟩
+  have hac₁ : [[a, c₁]] ⊆ [[a, b]] := uIcc_subset_uIcc left_mem_uIcc hc₁_mem
+  have hc₁b : [[c₁, b]] ⊆ [[a, b]] := uIcc_subset_uIcc hc₁_mem right_mem_uIcc
+  have hc₁c₂ : [[c₁, c₂]] ⊆ [[a, b]] := uIcc_subset_uIcc hc₁_mem hc₂_mem
+  have hc₂b : [[c₂, b]] ⊆ [[a, b]] := uIcc_subset_uIcc hc₂_mem right_mem_uIcc
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: immediately before this, `grind` can prove: `have : a ≤ c₁ ∧ c₁ ≤ d ∧ d ≤ c₂ ∧ c₂ ≤ b := by grind`. This makes me slightly skeptical that we really want unordered intervals everywhere in this proof, but maybe I'm wrong because of the definition of `intervalIntegral`.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 37]
```diff
@@ -0,0 +1,484 @@
...
+  have hud := uniqueDiffOn_uIcc hab.ne
+  replace hk : 1 ≤ k := by omega
+  -- If `k = 1` we will need the monotonicity condition of the order one theorem.
+  have hmono_ab (hk : k = 1) : MonotoneOn (derivWithin φ [[a, b]]) [[a, b]] := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I think this can also be extracted into a `private` lemma.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 38]
```diff
@@ -0,0 +1,484 @@
...
+              (fun x hx ↦ by simpa only [iteratedDerivWithin_one] using hψ_bd x hx)
+              hmono (by positivity)
+        _ = _ := by norm_num [rpow_neg_one]
+    · -- This is the `k ≥ 2` case: use inductive hypothesis
+      have hψc : ContDiffOn ℝ (k : ℕ∞) φ [[α, β]] := (hφc.mono hαβ).of_le (by norm_cast; simp)
+      rcases lt_or_gt_of_ne hαβ' with h | h
+      · simpa [mul_comm] using ih hψc hψ_bd h hk' (by positivity)
+      · rw [integral_symm, norm_neg]
+        simpa [mul_comm] using ih (by rwa [uIcc_comm]) (by rwa [uIcc_comm]) h hk' (by positivity)
+  -- Auxiliaries for verifying the hypothesis of `haux`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: This is a bit vague.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 39]
```diff
@@ -0,0 +1,484 @@
...
+    have : d + δ < b := by by_contra! hle; exact hne (min_eq_left hle)
+    rw [abs_of_nonneg (by linarith only [hδ_pos, hx.1, min_eq_right this.le])]
+    linarith only [hδ_pos, hx.1, min_eq_right this.le]
+  -- Finally we are ready to put the pieces together
+  rw [← integral_add_adjacent_intervals (b := c₁)
+    (ContinuousOn.intervalIntegrable <| .mono hf hac₁)
+    (ContinuousOn.intervalIntegrable <| .mono hf hc₁b),
+    ← integral_add_adjacent_intervals (a := c₁) (b := c₂)
+    (ContinuousOn.intervalIntegrable <| .mono hf hc₁c₂)
+    (ContinuousOn.intervalIntegrable <| .mono hf hc₂b)]
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
  rw [← integral_add_adjacent_intervals (hf.mono hac₁ |>.intervalIntegrable)
      (hf.mono hc₁b |>.intervalIntegrable),
    ← integral_add_adjacent_intervals (hf.mono hc₁c₂ |>.intervalIntegrable)
      (hf.mono hc₂b |>.intervalIntegrable)]
```

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 40]
```diff
@@ -0,0 +1,484 @@
...
+  let ψ' := fun x ↦ derivWithin ψ [[a, b]] x
+  have hasDeriv_ψ := fun x (hx : x ∈ [[a, b]]) ↦
+    (hψ.contDiffWithinAt hx).differentiableWithinAt (by norm_num) |>.hasDerivWithinAt
+  have cont_F' : ContinuousOn F' [[a, b]] := by fun_prop
+  have hasDeriv_F : ∀ x ∈ [[a, b]], HasDerivWithinAt F (F' x) [[a, b]] x := fun x hx ↦ by
+    have := FTCFilter.nhdsUIcc (h := ⟨hx⟩)
+    apply integral_hasDerivWithinAt_right (t := [[a, b]])
+    · exact ContinuousOn.intervalIntegrable <| .mono cont_F' <| uIcc_subset_uIcc_left hx
+    · apply ContinuousOn.stronglyMeasurableAtFilter_nhdsWithin cont_F' measurableSet_uIcc
+    · exact ContinuousOn.continuousWithinAt cont_F' hx
```
Comment (j-loreaux) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]:
```suggestion
    · exact cont_F'.mono (uIcc_subset_uIcc_left hx) |>.intervalIntegrable
    · exact cont_F'.stronglyMeasurableAtFilter_nhdsWithin measurableSet_uIcc _
    · exact cont_F'.continuousWithinAt hx
```

**Review by j-loreaux — COMMENTED** [review]
I think it's converging. I would still like to see more documentation.

As for the `Circle.exp` discussion, let's table it and not discuss it further for the purposes of this PR, as we can live without it here for now. But perhaps this would be a good discussion to have on Zulip. If you start such a discussion, please ping me.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 35 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:309]: This depends on many local hypotheses, including the inductive hypothesis. Isolating it out would get lengthy, so I left it for now

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 37 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: Done

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 36 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I inlined two of these because they are used only once, and moved the other two to where they are used (`grind [uIcc_of_le]` can do any of them too but it is easy enough to give explicit terms). I don't think the effort of changing everything to ordered intervals is worth it, it will save two or so lines at first and then likely lose them again because `intervalIntegral` lemmas expect unordered intervals.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 22 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean]: I ended up putting it at the end instead, because it seems like that shouldn't be the first thing somebody sees when opening the file.

**Comment by roos-j** [comment]
Thank you for another round of useful comments which have been implemented. I added some more comments in the higher order proof. Let me know if more documentation is still needed.

**Review by j-loreaux — COMMENTED** [review]
To another maintainer: I realize the main proof here is very long, but having looked at it reasonably thoroughly, I agree with the authors that I don't see many natural ways to split it or factor it into useful lemmas. I suggested to move a main part of the argument of a primary theorem out into a `private` lemma, but the authors opted not to do it because it would have many hypotheses; I think that's a reasonable stance even if I personally would do it differently. The proof is documented with some comments.

Since this is not my specialty, I may be missing tricks to simplify or good lemmas to factor out. Certainly the improved version of `fun_prop` which can allow for metavariables might help with the derivative calculations, but it seems like we only have `fun_prop` activated for `HasFDeriv...`, not `HasDeriv...`.

maintainer merge?

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 41]
```diff
@@ -0,0 +1,469 @@
...
+import Mathlib.Analysis.Calculus.Deriv.Inv
+import Mathlib.Analysis.SpecialFunctions.ExpDeriv
+import Mathlib.MeasureTheory.Integral.IntervalIntegral.IntegrationByParts
+import Mathlib.Tactic.Cases
+
+/-!
+# Van der Corput's lemma
+
+We prove van der Corput's lemma for oscillatory integrals of the first kind
+in one real variable, following Stein.
```
Comment (sgouezel) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:21]: Could you recall the statement in this file-level docstring? There are many versions of Van der Corput...

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 42]
```diff
@@ -0,0 +1,469 @@
...
+    refine ((hφ.contDiffWithinAt <| hsubset hy).differentiableWithinAt
+      (by norm_num)).hasDerivWithinAt |>.mono hsubset |>.derivWithin ?_
+    exact uniqueDiffOn_uIcc hxa.symm _ hy
+  exact norm_integral_exp_mul_I_le_of_order_one' (hφ.mono hsubset)
+    (fun y hy ↦ haux y hy ▸ h y (hsubset hy))
+    ((hφ'_mono.mono hsubset).congr <| fun y hy ↦ (haux y hy).symm) hL
+
+/-- **Van der Corput's lemma** for vector-valued amplitude functions, case `k ≥ 2`.
+For `k = 1` see `norm_integral_exp_mul_I_le_of_order_one`. -/
+theorem norm_integral_exp_mul_I_le_of_order_ge_two {k : ℕ} (hk : 2 ≤ k)
```
Comment (sgouezel) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:455]: Isn't this lemma also formally true for `k = 1`? If so, better give the version with the weaker assumption `1 ≤ k`.

File: Mathlib/Topology/Order/IntermediateValue.lean [hunk 43]
```diff
@@ -787,3 +787,23 @@ theorem ContinuousOn.strictMonoOn_of_injOn_Ioo {a b : α} {f : α → δ} (hab :
...
   exact this.imp strictMono_restrict.mp strictAntiOn_iff_strictAnti.mpr
+
+section Group
+
+variable {α β : Type*}
+variable [TopologicalSpace α]
+variable [LinearOrder β] [TopologicalSpace β] [OrderClosedTopology β] [Group β] [MulLeftMono β]
+
+@[to_additive
+/-- On a preconnected set, if a continuous map has absolute value bounded below by `L > 0`,
```
Comment (sgouezel) [inline Mathlib/Topology/Order/IntermediateValue.lean:957]: If you give a docstring to the additive version, please also give one to the original version.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean (hunk 42 above)
Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:455]: No, this is false for `k=1` without the additional monotonicity hypothesis. This is why it is split into two parts.

File: Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean [hunk 44]
```diff
@@ -0,0 +1,480 @@
...
+    (Filter.mem_of_superset (isOpen_interior.mem_nhds hx) interior_subset)
+  rw [← hda.derivWithin (hud x hx'), ← iteratedDerivWithin_succ]
+  exact le_trans hL.le <| hφ x hx'
+
+section SpecialCase
+
+/-- **Van der Corput's lemma**. Special case of `norm_integral_exp_mul_I_le_of_order_one`
+  where the amplitude function is constant and scalar. -/
+theorem norm_integral_exp_mul_I_le_of_order_one'
+    (hφ : ContDiffOn ℝ 2 φ [[a, b]]) (h : ∀ x ∈ [[a, b]], L ≤ |derivWithin φ [[a, b]] x|)
```
Comment (sgouezel) [inline Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:160]: I am confused by the assumption here: you are assuming `C^2`, but I don't see how the lemma could be wrong assuming only C^1. Am I missing something?

Comment (sgouezel) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:160]: Indeed eg https://arxiv.org/pdf/math/0311013 (Corollary 5) gives a short elementary proof of Van der Corput, assuming only C^1 + monotone derivative and with the better constant 2 instead of 3.

Comment (roos-j) [reply Mathlib/Analysis/OscillatoryIntegrals/VanDerCorput.lean:160]: In all applications I care about the phase is smooth anyways, but good point. The mathlib version should have minimal assumptions.
